US05104884
4-(1H-1,2,4-triazole-1-yl)-2,8-dimethyl-quinoline
A mixture of 1.91 g of 2,8-dimethyl-4-chloro-quinoline and 1.38 g of 1,2,4-triazole is melt at 120° C. and stirred for 2 hours. The solidified melt is dissolved in a mixture of ethanol and water. The solution is poured into a solution of 0.84 g of sodium bicarbonate and 20 ml of water. The precipitated product is filtered. Thus 1.97 g of the desired compound are obtained, yield 88%, m.p.: 99°-100° C.

reactant | 2,8-dimethyl-4-chloro-quinoline | 1.91 g | CC1=NC2=C(C=CC=C2C(=C1)Cl)C | C11H10ClN
reactant | 1,2,4-triazole | 1.38 g | N1N=CN=C1 | C2H3N3
reactant | sodium bicarbonate | 0.84 g | C([O-])(O)=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 20 ml | O | H2O
product | 4-(1H-1,2,4-triazole-1-yl)-2,8-dimethyl-quinoline | 1.97 g, yield 88% | N1(N=CN=C1)C1=CC(=NC2=C(C=CC=C12)C)C | C13H12N4
